US07001897B2
A solution of 1-(4-{N-isopropyl-N-[2-(p-nitrobenzyloxycarbonylamino)ethyl]-carbamoyl}-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine (776 mg, 1.43 mmol) (obtained as described in Reference Example 60(4)) in dimethylformamide (23 ml) was added potassium thioacetate (982 mg, 8.60 mmol) at room temperature. The mixture was stirred in an oil bath (90° C.) for 4 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (1:2) as the eluant to afford 3-acetylthio-1-(4-{N-isopropyl-N-[2-(p-nitrobenzyloxycarbonylamino)ethyl]-carbamoyl}-1,3-thiazol-2-yl)azetidine (746 mg, yield 46%) as a pale brown solid.

reactant | 1-(4-{N-isopropyl-N-[2-(p-nitrobenzyloxycarbonylamino)ethyl]-carbamoyl}-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine | 1.43 mmol, 776 mg | C(C)(C)N(C(=O)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C)CCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C21H27N5O8S2
reactant | potassium thioacetate | 8.60 mmol, 982 mg | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 23 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-(4-{N-isopropyl-N-[2-(p-nitrobenzyloxycarbonylamino)ethyl]-carbamoyl}-1,3-thiazol-2-yl)azetidine | 746 mg, yield 46% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)C(N(CCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C)C)=O | C22H27N5O6S2
